US06509328B1
{2-[3-(3-Iodo-phenyl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester (Example G2) (1.0 g, 3.24 mmol) and 6-(3-iodo-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J7) (1.78 g, 3.57 mmol) according to the general procedure K. Obtained as a light yellow solid (1.9 g).

reactant | (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester | 3.24 mmol, 1.0 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)N)=O | C19H20N2O2
reactant | 6-(3-iodo-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | 3.57 mmol, 1.78 g | IC=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C12H11IO3
product | {2-[3-(3-Iodo-phenyl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic Acid tert.-Butyl Ester | 1.9 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)NC(CC(=O)C1=CC(=CC=C1)I)=O)=O | C28H25IN2O4
